US07396847B2
N-{[(5S)-3-(5-Bromopyrid-2-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide
(5R)-5-(Azidomethyl)-3-(5-bromopyrid-2-yl)-1,3-oxazolidin-2-one (5.60 g, 18.7 mM) was dissolved in thioacetic acid (10 ml) to give a yellow solution. The solution was degassed and stirred at room temperature for 20 hours. The thick slurry was concentrated and the desired product was crystallized from acetone (100 ml) to give the product as a light yellow solid (3.25 g).

reactant | (5R)-5-(Azidomethyl)-3-(5-bromopyrid-2-yl)-1,3-oxazolidin-2-one | 18.7 mM, 5.60 g | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=NC=C(C=C1)Br | C9H8BrN5O2
reactant | thioacetic acid | 10 ml | C(C)(=S)O | C2H4OS
product | N-{[(5S)-3-(5-Bromopyrid-2-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | 3.25 g | BrC=1C=CC(=NC1)N1C(O[C@H](C1)CNC(C)=O)=O | C11H12BrN3O3
